US08735417B2
To a solution of 1-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylic acid (15 mg, 0.033 mmol) in N,N-dimethylformamide (0.33 mL) was added ammonium chloride (5.4 mg, 0.10 mmol), diisopropylethylamine (23 μL, 0.13 mmol) and then (1H-benzotriazol-1-yloxy)(tripyrrolidin-1-yl)phosphonium hexafluorophosphate (35 mg, 0.067 mmol). After stirring for 90 minutes at room temperature, the mixture was diluted with EtOAc (30 mL), then washed with 1:1 saturated aqueous sodium bicarbonate:brine (2×30 mL). The aqueous fractions were further extracted with EtOAc (30 mL). The combined organic extracts were dried over sodium sulfate, and concentrated under reduced pressure. Purification by reverse phase HPLC provided 7 mg (0.016 mmol, 47% yield) of 1-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxamide. MS APCI: [M+H]+ m/z 449.1. 1H NMR (400 MHz, DMSO): δ 10.26 (s, 1H); 8.84 (d, J=4.9 Hz, 1H); 8.01 (s, 1H); 7.57-7.49 (m, 2H); 7.35-7.26 (m, 3H); 7.16 (d, J=7.7 Hz, 1H); 6.85 (s, 1H); 3.93 (d, J=12.8 Hz, 2H); 3.14-2.98 (m, 2H); 2.42-2.31 (m, 1H); 1.91-1.69 (m, 2H); 1.69-1.55 (m, 2H). rhSyk=+++.

reactant | 1-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylic acid | 0.033 mmol, 15 mg | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C1=CN=C(S1)N1CCC(CC1)C(=O)O)(F)F | C20H18F3N5O2S
reactant | ammonium chloride | 0.10 mmol, 5.4 mg | [Cl-].[NH4+]
reactant | diisopropylethylamine | 0.13 mmol, 23 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1H-benzotriazol-1-yloxy)(tripyrrolidin-1-yl)phosphonium hexafluorophosphate | 0.067 mmol, 35 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | N,N-dimethylformamide | 0.33 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxamide | 0.016 mmol, 7 mg, 47% yield | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C1=CN=C(S1)N1CCC(CC1)C(=O)N)(F)F | C20H19F3N6OS
